US07074819B2
To a suspension of NaH (240 mg, 60–72%) in tetrahydrofuran (5 ml) was added 2,2,2-trifluoroethanol (500 mg, 5 mmol) at 0° C. After the mixture was stirred for 45 minutes at room temperature, t-butyl bromoacetate (0.9 ml, 6 mmol) was added and stirred at room temperature for 15 hours. The mixture was poured into ice-water and extracted with chloroform. The organic layer was dried over anhydrous magnesium sulfate and concentrated to give crude t-Butyl 2,2,2-trifluoroethoxyacetate (1.08 g, quant.).

reactant | NaH | 240 mg | [H-].[Na+]
reactant | 2,2,2-trifluoroethanol | 5 mmol, 500 mg | FC(CO)(F)F | C2H3F3O
reactant | t-butyl bromoacetate | 6 mmol, 0.9 ml | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | t-Butyl 2,2,2-trifluoroethoxyacetate | 1.08 g | FC(COCC(=O)OC(C)(C)C)(F)F | C8H13F3O3
